### PR TITLE
[Merged by Bors] - feat(NumberTheory/ModularForms/DedekindEta): Show logDeriv eta is E2

### PR DESCRIPTION
**Pull request by CBirkbeck**
We prove that up to a constant, the logarithmic derivative of the Dedekind eta functions is the Eisenstein series E2. This comes from work done for the Sphere Packing project.

---

- [x] depends on : #32585
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 1]
```diff
@@ -28,7 +33,7 @@ differentiable on the upper half-plane.
 open TopologicalSpace Set MeasureTheory intervalIntegral
  Metric Filter Function Complex
 
-open UpperHalfPlane hiding I
+open _root_.UpperHalfPlane hiding I
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: This is clearly a sign of something wrong elsewhere in Mathlib that should be fixed (not just hacked around). It looks like two lemmas in `Mathlib.Analysis.Complex.IntegerCompl` got mis-named, creating a second duplicate namespace `Complex.UpperHalfPlane` in addition to the main `UpperHalfPlane` namespace, so the `_root_` is needed to disambiguate. 

I think this is actually my fault, because I suggested renaming those lemmas for dot-notation but didn't realise we were already inside another namespace. Please put a `_root_` prefix on the two IntegerCompl lemmas so they land in the correct namespace, and remove it in the `open` statements (here & in `QExpansion`).

Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: these will be fixed in #32585

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 2]
```diff
@@ -116,12 +123,48 @@ lemma tsum_logDeriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x)
...
+    (by simpa [Periodic.qParam] using UpperHalfPlane.norm_exp_two_pi_I_lt_one ⟨z, hz⟩)).mul_left
+    (-2 * π * I))).congr
+  grind [one_sub_eta_q_ne_zero _ hz]
+
+open EisensteinSeries in
+lemma logDeriv_eta_eq_E2 (z : ℍ) : logDeriv eta z = (π * I / 12) * E2 z := by
+  unfold eta
+  rw [logDeriv_mul (UpperHalfPlane.coe z) (by simp [ne_eq, exp_ne_zero, not_false_eq_true,
+    Periodic.qParam]) (eta_tprod_ne_zero z.2) (by fun_prop) (differentiableAt_eta_tprod z.2)]
+  have HG := logDeriv_tprod_eq_tsum isOpen_upperHalfPlaneSet (x := ⟨z, z.2⟩)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]: The formulation of `logDeriv_tprod_eq_tsum` is suboptimal. As written, with Yury's recent anti-defeq-abuse PR, the result is the rather ugly expression `↑⟨↑z, ⋯⟩` (a structure coerced to a subtype and then re-coerced). The solution is that `logDeriv_tprod_eq_tsum` should just take `{x : ℂ} (hx : x ∈ s)`, not `(x : s)`. Same for `logDeriv_tendsto` (and at the same time one should make the first three arguments to `logDeriv_prod` implicit).

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 3]
```diff
@@ -116,12 +123,48 @@ lemma tsum_logDeriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x)
...
+  apply ((summable_nat_add_iff 1).mpr ((summable_norm_pow_mul_geometric_div_one_sub (r := 𝕢 1 z) 1
+    (by simpa [Periodic.qParam] using UpperHalfPlane.norm_exp_two_pi_I_lt_one ⟨z, hz⟩)).mul_left
+    (-2 * π * I))).congr
+  grind [one_sub_eta_q_ne_zero _ hz]
+
+open EisensteinSeries in
+lemma logDeriv_eta_eq_E2 (z : ℍ) : logDeriv eta z = (π * I / 12) * E2 z := by
+  unfold eta
+  rw [logDeriv_mul (UpperHalfPlane.coe z) (by simp [ne_eq, exp_ne_zero, not_false_eq_true,
+    Periodic.qParam]) (eta_tprod_ne_zero z.2) (by fun_prop) (differentiableAt_eta_tprod z.2)]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
  rw [logDeriv_mul _ (Periodic.qParam_ne_zero _) (eta_tprod_ne_zero z.2) (by fun_prop) 
    (differentiableAt_eta_tprod z.2)]
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 4]
```diff
@@ -116,12 +123,48 @@ lemma tsum_logDeriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x)
...
+  have HG := logDeriv_tprod_eq_tsum isOpen_upperHalfPlaneSet (x := ⟨z, z.2⟩)
+    (f := fun n x => 1 - eta_q n x) (fun i ↦ one_sub_eta_q_ne_zero i z.2)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
    (one_sub_eta_q_ne_zero · z.2)
```
(`f` can be inferred)

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 5]
```diff
@@ -116,12 +123,48 @@ lemma tsum_logDeriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x)
...
+    (by simp_rw [eta_q_eq_pow]; fun_prop) (summable_logDeriv_one_sub_eta_q z.2)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
    (by fun_prop) (summable_logDeriv_one_sub_eta_q z.2)
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 6]
```diff
@@ -116,12 +123,48 @@ lemma tsum_logDeriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x)
...
     isOpen_upperHalfPlaneSet z hz).differentiableAt (isOpen_upperHalfPlaneSet.mem_nhds hz)
   filter_upwards with b
   simpa [Finset.prod_fn] using DifferentiableOn.finset_prod (by fun_prop)
 
+theorem differentiableAt_eta_of_mem_upperHalfPlaneSet {z : ℂ} (hz : z ∈ ℍₒ) :
+    DifferentiableAt ℂ eta z := by
+  exact DifferentiableAt.mul (by fun_prop) (differentiableAt_eta_tprod hz)
+
+lemma logDeriv_qParam (h : ℝ) (z : ℂ) : logDeriv (𝕢 h) z = 2 * π * I / h := by
+  have : (𝕢 h) = cexp ∘ (fun z => (2 * π * I / h) * z) := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
  have : 𝕢 h = cexp ∘ ((2 * π * I / h) * ·) := by
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 7]
```diff
@@ -116,12 +123,48 @@ lemma tsum_logDeriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x)
...
+lemma differentiableAt_eta_tprod {z : ℂ} (hz : z ∈ ℍₒ) :
+    DifferentiableAt ℂ (fun x ↦ ∏' n, (1 - eta_q n x)) z := by
+  apply (multipliableLocallyUniformlyOn_eta.hasProdLocallyUniformlyOn.differentiableOn ?_
     isOpen_upperHalfPlaneSet z hz).differentiableAt (isOpen_upperHalfPlaneSet.mem_nhds hz)
   filter_upwards with b
   simpa [Finset.prod_fn] using DifferentiableOn.finset_prod (by fun_prop)
 
+theorem differentiableAt_eta_of_mem_upperHalfPlaneSet {z : ℂ} (hz : z ∈ ℍₒ) :
+    DifferentiableAt ℂ eta z := by
+  exact DifferentiableAt.mul (by fun_prop) (differentiableAt_eta_tprod hz)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
    DifferentiableAt ℂ eta z :=
  .mul (by fun_prop) (differentiableAt_eta_tprod hz)
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 8]
```diff
@@ -116,12 +123,48 @@ lemma tsum_logDeriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x)
...
+
+lemma logDeriv_qParam (h : ℝ) (z : ℂ) : logDeriv (𝕢 h) z = 2 * π * I / h := by
+  have : (𝕢 h) = cexp ∘ (fun z => (2 * π * I / h) * z) := by
+    ext z
+    simp [Periodic.qParam]
+    ring_nf
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
    ext
    grind [Periodic.qParam]
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 9]
```diff
@@ -116,12 +123,48 @@ lemma tsum_logDeriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x)
...
+  rw [this, logDeriv_comp (by fun_prop) (by fun_prop), deriv_const_mul _ (by fun_prop)]
+  simp [logDeriv_exp]
+
+lemma summable_logDeriv_one_sub_eta_q {z : ℂ} (hz : z ∈ ℍₒ) :
+    Summable fun i ↦ logDeriv (fun x ↦ 1 - eta_q i x) z := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
    Summable fun i ↦ logDeriv (1 - eta_q i ·) z := by
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 10]
```diff
@@ -116,12 +123,48 @@ lemma tsum_logDeriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x)
...
+  simp only [one_sub_eta_logDeriv_eq]
+  apply ((summable_nat_add_iff 1).mpr ((summable_norm_pow_mul_geometric_div_one_sub (r := 𝕢 1 z) 1
+    (by simpa [Periodic.qParam] using UpperHalfPlane.norm_exp_two_pi_I_lt_one ⟨z, hz⟩)).mul_left
+    (-2 * π * I))).congr
+  grind [one_sub_eta_q_ne_zero _ hz]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
  grind
```

Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
  have := summable_norm_pow_mul_geometric_div_one_sub 1 (norm_qParam_lt_one 1 ⟨z, hz⟩)
  convert ((summable_nat_add_iff 1).mpr this).mul_left (-2 * π * I) using 1 with n
  grind [one_sub_eta_logDeriv_eq]
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 11]
```diff
@@ -116,12 +123,48 @@ lemma tsum_logDeriv_eta_q (z : ℂ) : ∑' n, logDeriv (fun x ↦ 1 - eta_q n x)
...
+  rw [logDeriv_mul (UpperHalfPlane.coe z) (by simp [ne_eq, exp_ne_zero, not_false_eq_true,
+    Periodic.qParam]) (eta_tprod_ne_zero z.2) (by fun_prop) (differentiableAt_eta_tprod z.2)]
+  have HG := logDeriv_tprod_eq_tsum isOpen_upperHalfPlaneSet (x := ⟨z, z.2⟩)
+    (f := fun n x => 1 - eta_q n x) (fun i ↦ one_sub_eta_q_ne_zero i z.2)
+    (by simp_rw [eta_q_eq_pow]; fun_prop) (summable_logDeriv_one_sub_eta_q z.2)
+    (multipliableLocallyUniformlyOn_eta ) (eta_tprod_ne_zero z.2)
+  simp only [logDeriv_qParam 24 z, HG, tsum_logDeriv_eta_q z, E2, one_div,
+    mul_inv_rev, Pi.smul_apply, smul_eq_mul]
+  rw [G2_eq_tsum_cexp, riemannZeta_two, ← tsum_pow_div_one_sub_eq_tsum_sigma
+    (by apply UpperHalfPlane.norm_exp_two_pi_I_lt_one z), mul_sub, sub_eq_add_neg, mul_add]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
    (norm_exp_two_pi_I_lt_one z), mul_sub, sub_eq_add_neg, mul_add]
```

**Review by loefflerd — COMMENTED** [review]
This is looking good! I found a couple of golfs, nothing major, but also some sub-optimal formulations in some lemmas in preceding files that are used here.

File: Mathlib/Analysis/Complex/LocallyUniformLimit.lean [hunk 12]
```diff
@@ -197,11 +197,11 @@ section LogDeriv
 /-- The logarithmic derivative of a sequence of functions converging locally uniformly to a
 function is the logarithmic derivative of the limit function. -/
 theorem logDeriv_tendsto {ι : Type*} {p : Filter ι} {f : ι → ℂ → ℂ} {g : ℂ → ℂ}
-    {s : Set ℂ} (hs : IsOpen s) (x : s) (hF : TendstoLocallyUniformlyOn f g p s)
+    {s : Set ℂ} (hs : IsOpen s) {x : ℂ} (hx : x ∈ s) (hF : TendstoLocallyUniformlyOn f g p s)
     (hf : ∀ᶠ n : ι in p, DifferentiableOn ℂ (f n) s) (hg : g x ≠ 0) :
     Tendsto (fun n : ι => logDeriv (f n) x) p (𝓝 ((logDeriv g) x)) := by
   simp_rw [logDeriv]
-  apply Tendsto.div ((hF.deriv hf hs).tendsto_at x.2) (hF.tendsto_at x.2) hg
+  apply Tendsto.div ((hF.deriv hf hs).tendsto_at hx) (hF.tendsto_at hx) hg
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/LocallyUniformLimit.lean]: You can golf this a bit:
```lean
theorem logDeriv_tendsto {ι : Type*} {p : Filter ι} {f : ι → ℂ → ℂ} {g : ℂ → ℂ}
    {s : Set ℂ} (hs : IsOpen s) {x : ℂ} (hx : x ∈ s) (hF : TendstoLocallyUniformlyOn f g p s)
    (hf : ∀ᶠ n in p, DifferentiableOn ℂ (f n) s) (hg : g x ≠ 0) :
    Tendsto (fun n ↦ logDeriv (f n) x) p (𝓝 (logDeriv g x)) := 
  ((hF.deriv hf hs).tendsto_at hx).div (hF.tendsto_at hx) hg
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 13]
```diff
@@ -150,7 +150,7 @@ lemma cot_pi_mul_contDiffWithinAt (k : ℕ∞) (hx : x ∈ ℂ_ℤ) :
 lemma tendsto_logDeriv_euler_sin_div (hx : x ∈ ℂ_ℤ) :
     Tendsto (fun n : ℕ ↦ logDeriv (fun z ↦ ∏ j ∈ Finset.range n, (1 + sineTerm z j)) x)
         atTop (𝓝 <| logDeriv (fun t ↦ (Complex.sin (π * t) / (π * t))) x) := by
-  refine logDeriv_tendsto (isOpen_compl_range_intCast) ⟨x, hx⟩
+  refine logDeriv_tendsto (isOpen_compl_range_intCast) hx
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
  refine logDeriv_tendsto isOpen_compl_range_intCast hx
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 14]
```diff
@@ -80,13 +85,15 @@ lemma multipliableLocallyUniformlyOn_eta :
   · rw [hasProdUniformlyOn_iff_tendstoUniformlyOn]
     simpa [not_nonempty_iff_eq_empty.mp hN] using tendstoUniformlyOn_empty
 
-/-- Eta is non-vanishing on the upper half plane. -/
-lemma eta_ne_zero {z : ℂ} (hz : z ∈ ℍₒ) : η z ≠ 0 := by
-  apply mul_ne_zero (Periodic.qParam_ne_zero z)
+lemma eta_tprod_ne_zero {z : ℂ} (hz : z ∈ ℍₒ) : (∏' n, (1 - eta_q n z)) ≠ 0 := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
lemma eta_tprod_ne_zero {z : ℂ} (hz : z ∈ ℍₒ) : ∏' n, (1 - eta_q n z) ≠ 0 := by
```

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 15]
```diff
@@ -80,13 +85,15 @@ lemma multipliableLocallyUniformlyOn_eta :
...
   refine tprod_one_add_ne_zero_of_summable (f := fun n ↦ -eta_q n z) ?_ ?_
   · exact fun i ↦ by simpa using one_sub_eta_q_ne_zero i hz
   · simpa [eta_q, ← summable_norm_iff] using summable_eta_q ⟨z, hz⟩
 
+/-- Eta is non-vanishing on the upper half plane. -/
+lemma eta_ne_zero {z : ℂ} (hz : z ∈ ℍₒ) : η z ≠ 0 := by
+  apply mul_ne_zero (Periodic.qParam_ne_zero z) (eta_tprod_ne_zero hz)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean]:
```suggestion
lemma eta_ne_zero {z : ℂ} (hz : z ∈ ℍₒ) : η z ≠ 0 :=
  mul_ne_zero (Periodic.qParam_ne_zero z) (eta_tprod_ne_zero hz)
```

**Review by loefflerd — COMMENTED** [review]
Looks good now, just couple of small formatting cleanups to finish.

maintainer delegate

File: Mathlib/NumberTheory/ModularForms/DedekindEta.lean [hunk 16]
```diff
@@ -5,9 +5,13 @@ Authors: Chris Birkbeck, David Loeffler
 -/
 module
 
+public import Mathlib.Analysis.Calculus.LogDerivUniformlyOn
 public import Mathlib.Analysis.Complex.LocallyUniformLimit
 public import Mathlib.Analysis.Complex.UpperHalfPlane.Exp
 public import Mathlib.Analysis.Normed.Module.MultipliableUniformlyOn
+public import Mathlib.NumberTheory.ModularForms.EisensteinSeries.E2.Summable
+public import Mathlib.NumberTheory.TsumDivisorsAntidiagonal
+
```
Comment (tb65536) [inline Mathlib/NumberTheory/ModularForms/DedekindEta.lean:14]: There's an extra newline here.
